US06943183B2
1. 5-Aminomethyl-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one Bis-Hydrochloride
[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-carbamic acid tert-butyl ester (0.830 g, 1.80 mmol) was dissolved in dioxane (10 mL) and 4M HCl in dioxane (4 mL) was added. After 15 minutes, a white precipitate formed. The precipitate was collected by filtration, washed with Et2O and dried in a vacuum oven to give the title compound as a white fluffy solid (0.761 g, 1.75 mmol, 97%). The structure was confirmed by NMR, mass spectrometry and elemental analysis. MS m/z 362 (M++H).

reactant | [2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-ylmethyl]-carbamic acid tert-butyl ester | 1.80 mmol, 0.830 g | C(C)(C)(C)OC(NCC1=C(C=CC=2C(CCCC12)=O)O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C27H31N3O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-Aminomethyl-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one Bis-Hydrochloride | Cl.Cl.NCC1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | InChI=1S/C22H23N3O2.2ClH/c23-13-19-17-7-4-8-20(26)18(17)9-10-21(19)27-22(14-25-12-11-24-15-25)16-5-2-1-3-6-16;;/h1-3,5-6,9-12,15,22H,4,7-8,13-14,23H2;2*1H/t22-;;/m1../s1
